US05847182
In the same apparatus and procedures as Example 1 above, 5.0 g (21.7 mmol) of 4-bromobiphenyl and 0.08 g (11.1 mmol) of aluminum foil were alkylated in CS2 (50 ml) solution with (2,2-dichloroethyl)-trichlorosilane 6.68 g (21.7 mmol) for 24 hr. at reflux temperature. Freshly distilled hexane (100 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic solution. After hexane and CS2 were distilled, the reaction products were vacuum distilled to give 1.28 g of 2-bromo-9-(trichlorosilyl)methylfluorene (yield; 15%).

reactant | 4-bromobiphenyl | 21.7 mmol, 5.0 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | aluminum | 11.1 mmol, 0.08 g | [Al] | Al
reactant | (2,2-dichloroethyl)-trichlorosilane | 21.7 mmol, 6.68 g | ClC(C[Si](Cl)(Cl)Cl)Cl | C2H3Cl5Si
solvent | CS2 | 50 ml | C(=S)=S | CS2
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 2-bromo-9-(trichlorosilyl)methylfluorene | 1.28 g, yield; 15% | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)C[Si](Cl)(Cl)Cl | C14H10BrCl3Si
